US08729303B2
hydrogenating the 2,2′,6,6′-tetranitrobiphenyl with Pd/C, to obtain a 2,2′,6,6′-tetraminobiphenyl;

reactant | 2,2′,6,6′-tetranitrobiphenyl | [N+](=O)([O-])C1=C(C(=CC=C1)[N+](=O)[O-])C1=C(C=CC=C1[N+](=O)[O-])[N+](=O)[O-] | C12H6N4O8
catalyst | Pd/C | [Pd] | Pd
product | 2,2′,6,6′-tetraminobiphenyl | NC1=C(C(=CC=C1)N)C1=C(C=CC=C1N)N | C12H14N4
